US05856529
Step 3: Methyl benzofuran-7-carboxylate
Ozone was bubbled through a solution of methyl 3-allyl-salicylate (30 g, 156 mmol) at -78° C. for 2 hr until no starting material was present on TLC. The reaction was quenched with dimethyl sulfide and stirred at room temperature for 18 hr. The mixture was concentrated in vacuo, and the residue was dissolved in ether. The ether solution was washed with brine three times, and then concentrated in vacuo to a green oil. This oil was dissolved in toluene and heated to reflux with sulfuric acid (0.5 ml) for 4 hr. Sodium carbonate (5 g) was added, and the mixture was cooled and then filtered. The filtrated was concentrated in vacuo to a dark oil that was purified by chromatography on silica gel using methylene chloride as the eluent to give the product as a green oil (12 g, 44%).

reactant | Ozone | O=[O+][O-] | O3
reactant | methyl 3-allyl-salicylate | 156 mmol, 30 g | C(C=C)C1=C(C(C(=O)OC)=CC=C1)O | C11H12O3
product | Methyl benzofuran-7-carboxylate | 12 g, 44% | O1C=CC2=C1C(=CC=C2)C(=O)OC | C10H8O3
